US09233098B2
6. Preparation of ethyl 2-[1-[4-(2-naphthamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetate
The crude ethyl 2-[1-(4-aminobenzyl)-6-fluoro-1H-indazol-3-yl]acetate (about 1.0 mmol) obtained in the last step and triethylamine (0.5 mL) were dissolved in dichloromethane (15 mL). In an ice bath, dichloromethane solution (10 mL) of 2-naphthoyl chloride (191 mg, 1.0 mmol) was added dropwise slowly. Upon completion of the dropwise addition, it was reacted at room temperature for 16 hours. An aqueous solution of sodium bicarbonate was added to quench, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduce pressure, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a white solid 205 mg, at a total yield over two steps of reactions of 42.6%.

reactant | ethyl 2-[1-(4-aminobenzyl)-6-fluoro-1H-indazol-3-yl]acetate | about 1.0 mmol | NC1=CC=C(CN2N=C(C3=CC=C(C=C23)F)CC(=O)OCC)C=C1 | C18H18FN3O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 1.0 mmol, 191 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 2-[1-[4-(2-naphthamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetate | 205 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2N=C(C3=CC=C(C=C23)F)CC(=O)OCC)C=C1 | C29H24FN3O3
